### PR TITLE
[Merged by Bors] - chore: use `grw`, `gcongr` even more

### PR DESCRIPTION
**Pull request by YaelDillies**
Also delete a redundant instance.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JovanGerb** [comment]
I do somewhat agree with @grunweg that your refactor of inductive proofs is controversial. I think it is more readable if all proofs have the hypotheses on the left of the `:` and the whole proof is done in tactic mode (the `induction` tactic in this case).

And an advantage of the `induction` tactic over structural recursion is that the reader can see immediately that the proof is recursive, instead of figuring this out by seeing the name of the lemma mentioned somewhere in its proof.

**Comment by YaelDillies** [comment]
So at least we agree that the style guide *should* be updated to include pattern-matching as a valid reason for having hypotheses right of the colon, and it's just that in those specific cases you believe we should rather use `induction`?

**Comment by JovanGerb** [comment]
Sure, you could make an update to the style guide, but that is orthogonal to this PR

**Comment by YaelDillies** [comment]
I've switched to using `induction` (although I must say it's longer and less esthetic...) and opened https://github.com/leanprover-community/leanprover-community.github.io/pull/719 to clarify the rule (which, upon reading, was actually already pretty clear that it wouldn't apply here).

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 1]
```diff
@@ -180,16 +180,12 @@ protected theorem map_pow (a : R) (n : ℕ) : abv (a ^ n) = abv a ^ n :=
...
-  | succ n hn =>
-    simp only [Nat.cast_succ]
-    calc
-      abv (n + 1) ≤ abv n + abv 1 := abv.add_le ..
-      _ = abv n + 1 := congrArg (abv n + ·) abv.map_one
-      _ ≤ n + 1 := add_le_add_right hn 1
+  | succ n ih =>
+  cases subsingleton_or_nontrivial R
+  · simp [-Nat.cast_add, Subsingleton.eq_zero (↑(n + 1) : R)]
+  · grw [Nat.cast_succ, Nat.cast_succ, abv.add_le, abv.map_one, ih]
```
Comment (JovanGerb) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:188]:
```suggestion
  cases subsingleton_or_nontrivial R
  · simp [Subsingleton.eq_zero (n : R)]
  induction n with
  | zero => simp
  | succ n ih =>
  · grw [Nat.cast_succ, Nat.cast_succ, abv.add_le, abv.map_one, ih]
```
See? In this form we can golf the proof by doing the `cases` first :)

**Review by JovanGerb — COMMENTED** [review]
Thanks! I agree with these changes now :)

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:188]: Doesn't look like a golf to me! It's the same lines in a different order

Comment (JovanGerb) [reply Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:188]: No the simp line became simpler. Or rather, you make it more complicated

File: Mathlib/Algebra/Order/AbsoluteValue/Basic.lean [hunk 2]
```diff
@@ -184,12 +184,8 @@ lemma apply_nat_le_self [IsOrderedRing S] (n : ℕ) : abv n ≤ n := by
...
   induction n with
   | zero => simp
-  | succ n hn =>
-    simp only [Nat.cast_succ]
-    calc
-      abv (n + 1) ≤ abv n + abv 1 := abv.add_le ..
-      _ = abv n + 1 := congrArg (abv n + ·) abv.map_one
-      _ ≤ n + 1 := add_le_add_right hn 1
+  | succ n ih =>
+  · grw [Nat.cast_succ, Nat.cast_succ, abv.add_le, abv.map_one, ih]
```
Comment (JovanGerb) [inline Mathlib/Algebra/Order/AbsoluteValue/Basic.lean:188]: I think you accidentally left a focus dot

File: Mathlib/Topology/EMetricSpace/PairReduction.lean [hunk 3]
```diff
@@ -409,8 +405,10 @@ lemma iSup_edist_pairSet {E : Type*} [PseudoEMetricSpace E] (ha : 1 < a) (f : T
         simp only [not_lt, tsub_le_iff_right] at hl
         have hlJ : l + 1 = #J := by
           refine Nat.le_antisymm_iff.mpr ⟨?_, hl⟩
-          rw [← Nat.sub_add_cancel <| Order.one_le_iff_pos.mpr (Finset.card_pos.mpr hJ)]
-          apply add_le_add_right (Nat.findGreatest_le _)
+          dsimp [l]
+          grw [← Nat.sub_add_cancel <| Order.one_le_iff_pos.mpr (Finset.card_pos.mpr hJ),
+            Nat.findGreatest_le]
+          rfl
```
Comment (JovanGerb) [inline Mathlib/Topology/EMetricSpace/PairReduction.lean:411]:
```suggestion
          grw [Nat.findGreatest_le,
            Nat.sub_add_cancel <| Order.one_le_iff_pos.mpr (Finset.card_pos.mpr hJ)]
```

**Comment by JovanGerb** [comment]
Thanks!

maintainer delegate

**Comment by grunweg** [comment]
!bench

File: Mathlib/SetTheory/Ordinal/NaturalOps.lean [hunk 4]
```diff
@@ -531,11 +531,13 @@ theorem nmul_lt_nmul_of_pos_left (h₁ : a < b) (h₂ : 0 < c) : c ⨳ a < c ⨳
 theorem nmul_lt_nmul_of_pos_right (h₁ : a < b) (h₂ : 0 < c) : a ⨳ c < b ⨳ c :=
   lt_nmul_iff.2 ⟨a, h₁, 0, h₂, by simp⟩
 
+@[gcongr]
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/NaturalOps.lean:534]: Pre-existing, but: should there be a lemma with both variables varying, that you tag gcongr instead?

**Review by grunweg — COMMENTED** [review]
Thanks for following up and your patience through the process. Assuming the benchmark is fine, can you update the PR description (this doesn't contain any "hypothesis left of colon"-related changes any more), please?
bors d+

**Comment by YaelDillies** [comment]
bors merge

**Comment by JovanGerb** [comment]
@YaelDillies, I think you forgot to address my comments above

**Comment by YaelDillies** [comment]
I addressed it, pushed then called bors, but my github token had expired so the push failed... and the PR got merged before I noticed. I have already moved the lost commit to the next PR in the sequence
